US07074906B2
2-(2-Nitrophenylazo)-4-methylphenol; Illustrates the Use of a Combination of Ionic and Nonionic Surfactant
A mixture of 2-nitroaniline (27.63 g, 0.2 mol), para-cresol (10.81 g, 0.10 mol), Hostapur® SAS93 (1.55), Triton X-100® [polyethylene(10) isooctylphenyl ether] (2.45 g) and water (100 mL) is heated to 50° C. The reaction mixture is rapidly stirred at this temperature for 15 minutes and then the rapidly stirred resultant suspension is allowed to cool to room temperature. The reaction mixture is cooled to 11° C. and a solution of sulfuric acid (11.99 g, 0.12 mol), Hostapur® SAS93 (0.51), and Triton X-100® [polyethylene(10) isooctylphenyl ether] (0.73 g) in 20 mL of water is added dropwise. To the resultant suspension is added dropwise at 9–11° C. nitrosylsulfuric acid (25.40 g, 0.2 mol, 63.51 grams of a 40% solution of nirosylsulfuric acid in sulfuric acid). Upon completion of the reaction, the aqueous phase is separated and the resultant crude product washed by decantation with water (300 mL). An analytical sample is prepared by dry-column flash chromatography (1:1 toluene:heptane eluent)(dry-column flash chromatography method reference: Leonard, J.; Lygro, B.; Procter., G. Advanced Practical Organic Chemistry 2 Ed.; Blackie Academic: London, 1995, pp 215–216).

reactant | 2-nitroaniline | 0.2 mol, 27.63 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | para-cresol | 0.10 mol, 10.81 g | C1=CC(=CC=C1O)C | C7H8O
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | nitrosylsulfuric acid | N(=O)OS(O)(=O)=O | HNO5S
solvent | water | 20 mL | O | H2O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 0.12 mol, 11.99 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 mL | O | H2O
product | 2-(2-Nitrophenylazo)-4-methylphenol | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C=CC(=C1)C)O | C13H11N3O3
